US08293913B2
tert-butyl 5-(3-(3-(trifluoromethoxy)phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate
The title compound was prepared by analogy to the procedure of Example 1.3, except using tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate and 8-iodo-3-(3-(trifluoromethoxy)phenylsulfonyl)quinoline. 140 mg (79%) of the title compound were obtained as a pale yellow solid.

reactant | tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | C1N(CC2C1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
reactant | 8-iodo-3-(3-(trifluoromethoxy)phenylsulfonyl)quinoline | IC=1C=CC=C2C=C(C=NC12)S(=O)(=O)C1=CC(=CC=C1)OC(F)(F)F | C16H9F3INO3S
product | tert-butyl 5-(3-(3-(trifluoromethoxy)phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 140 mg, 79% | FC(OC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1CC2C(C1)CN(C2)C(=O)OC(C)(C)C)(F)F | C27H28F3N3O5S
